US05061720
4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]-3-methoxybenzoic acid methyl ester.
A mixture of 66.9 g (0.354 mole) of potassium phthalimide (98%, Aldrich) and 90.0 g (0.348 mole) of 4-(3-chloropropoxy)-3-methyl benzoic acid methyl ester in 450 mL of dimethyl formamide was stirred and heated at reflux for 5 hr then let stir at ambient temperature overnight. The reaction mixture was treated with 3 L of water and the resulting solid was collected by filtration to give 108.5 g (84%) of crude title compound. An 8.0 g sample of this solid was recrystallized from 2-propanol to yield 6.4 g (80%) of title compound as a white solid, mp 127°-128° C.

reactant | potassium phthalimide | 0.354 mole, 66.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 4-(3-chloropropoxy)-3-methyl benzoic acid methyl ester | 0.348 mole, 90.0 g | COC(C1=CC(=C(C=C1)OCCCCl)C)=O | C12H15ClO3
reactant | water | 3 L | O | H2O
reactant | dimethyl formamide | 450 mL | CN(C=O)C | C3H7NO
product | 4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]-3-methoxybenzoic acid methyl ester | 6.4 g, 80% | COC(C1=CC(=C(C=C1)OCCCN1C(C2=CC=CC=C2C1=O)=O)OC)=O | C20H19NO6
